US07271153B2
To a solution of 3-cyano-4,6-dimethyl-1H-pyridin-2-one (4.6 g) in dichloromethane (150 mL) were added benzyl bromide (5.6 mL) and silver carbonate (26 g), and the mixture was stirred under shading for 3 hours at 50° C. The reaction mixture was cooled to room temperature, and the insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=7/1) to give 2-benzyloxy-3-cyano-4,6-dimethylpyridine (7.1 g). To diisobutylaluminum hydride (1.5 mol/L solution in toluene, 8.7 mL) was added a solution of 2-benzyloxy-3-cyano-4,6-dimethylpyridine (2.4 g) in tetrahydrofuran (4.3 mL) at 0° C., and the mixture was stirred for 4 hours at 0° C. The reaction mixture was poured into 1 mol/L hydrochloric acid solution (40 mL), and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=50/1-20/1-10/1) to give 2-benzyloxy-3-formyl-4,6-dimethylpyridine (0.90 g). To a solution of 4-ethylbromobenzene (0.044 g) in tetrahydrofuran (1.2 mL) was added tert-butyllithium (1.5 mol/L solution in hexane, 0.17 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 30 minutes. A solution of 2-benzyloxy-3-formyl-4,6-dimethylpyridine (0.048 g) in tetrahydrofuran (1.3 mL) was added to the reaction mixture, and the mixture was stirred for 30 minutes for 0° C. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with diethylether. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=5/1) to give 2-benzyloxy-4,6-dimethylpyridin-3-yl-4-ethylphenylmethanol (0.066 g). To a solution of the obtained 2-benzyloxy-4,6-dimethylpyridin-3-yl-4-ethylphenylmethanol (0.061 g) in ethanol (3.5 mL) was added 10% palladium carbon powder (0.037 g), and the mixture was stirred for 12 hours at room temperature under a hydrogen atmosphere. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: dichloro-methane/methanol=10/1) to give 3-(4-ethylbenzyl)-4,6-dimethyl-1H-pyridin-2-one (0.039 g).

reactant | 2-benzyloxy-4,6-dimethylpyridin-3-yl-4-ethylphenylmethanol | 0.061 g | C(C1=CC=CC=C1)OC1=NC(=CC(=C1C(O)C1=CC=C(C=C1)CC)C)C | C23H25NO2
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
catalyst | palladium carbon | 0.037 g | [C].[Pd]
product | 3-(4-ethylbenzyl)-4,6-dimethyl-1H-pyridin-2-one | 0.039 g | C(C)C1=CC=C(CC=2C(NC(=CC2C)C)=O)C=C1 | C16H19NO
